US06903215B2
To 1.89 g (8.99 mmol) of 3-(4-fluoro-2-methoxyphenyl)-3-methylbutyraldehyde was added 25 mL (12.5 mmol) of a 0.5 M solution of trimethyl(trifluoromethyl)silane in tetrahydrofuran and 2 mL (2 mmol) of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran was added over a 2 minute period. The mixture stirred for 30 minutes and then an additional 8 mL (8 mmol) of a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran was added. The mixture was then diluted with water and extracted with three 25 mL portions of EtOAc. The combined organic layers were washed with three 20 mL portions of 1 N aqueous HCl, three 20 mL portions of brine, and three 20 mL portions of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated to afford 2.78 g of 1,1,1-trifluoro-4-(4-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol as an oil. The oil was dried under high vacuum to a constant weight of 2.36 g (93%) and was used without further purification.

reactant | 3-(4-fluoro-2-methoxyphenyl)-3-methylbutyraldehyde | 8.99 mmol, 1.89 g | FC1=CC(=C(C=C1)C(CC=O)(C)C)OC | C12H15FO2
reactant | trimethyl(trifluoromethyl)silane | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,1,1-trifluoro-4-(4-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 2.78 g | FC(C(CC(C)(C)C1=C(C=C(C=C1)F)OC)O)(F)F | C13H16F4O2
